US06034121
3-methylanthranilic acid (12.5 g) was added slowly with stirring to sulfuric acid (61 ml: 7.5M) cooled to 0° C. A solution of sodium nitrite (5.7 g) in water (19 ml) was added dropwise maintaining the temperature below 5° C. The mixture was stirred for half an hour at room temperature and heated at 79-80° C. for one hour then cooled. Water was added and the mixture allowed to stand over the weekend. The mixture was filtered and the precipitate collected and washed with water. It was dissolved in ethyl acetate and the solution washed with water, stirred with barium chloride for 2 hours to remove any residual sulfuric acid, filtered, washed with water, dried and evaporated under reduced pressure to give 3-methylsalicylic acid, m.p. 160-2° C.

reactant | 3-methylanthranilic acid | 12.5 g | CC1=C(C(C(=O)O)=CC=C1)N | C8H9NO2
reactant | sulfuric acid | 7.5M, 61 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 5.7 g | N(=O)[O-].[Na+]
solvent | water | 19 ml | O | H2O
product | 3-methylsalicylic acid | CC1=C(C(C(=O)O)=CC=C1)O | C8H8O3
